US07666901B2
Preparation of (1Z,4S,4aR,5R,6aS,7S)-7,11-dihydroxy-1-{[(2-mercaptoethyl)amino]methylene}-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate
To a solution of 100 mg (0.23 mmol) 17-hydroxywortmannin in 2 mL CH2Cl2 is added 32 mg (0.278 mmol) 2-amino-ethanethiol hydrochloride and triethylamine (45 μL, 0.325 mmol). The reaction mixture is stirred at room temperature for 4 h. Water is added and the CH2Cl2 is removed, filtered through a plug of Kimwipe tissue and concentrated in vacuo to give a yellow foam. MS (ESI) m/z 508.5 (M+1).

reactant | 17-hydroxywortmannin | 0.23 mmol, 100 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | 2-amino-ethanethiol hydrochloride | 0.278 mmol, 32 mg | Cl.NCCS
reactant | triethylamine | 0.325 mmol, 45 μL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (1Z,4S,4aR,5R,6aS,7S)-7,11-dihydroxy-1-{[(2-mercaptoethyl)amino]methylene}-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate | C(C)(=O)O[C@@H]1C[C@@]2([C@H](CCC2C=2C(C(=C3/C(/C(O[C@@H]([C@@]3(C21)C)COC)=O)=C/NCCS)O)=O)O)C | C25H33NO8S
